US06790848B2
To a suspension of 370 mg (2.3 mmole) 4-nitro-1H-indole in 10 mL toluene was added 5 mL 4 M sodium hydroxide and 50 mg tetra-n-butyl ammonium hydrogen sulfate. Solid naphthalene-1-sulfonyl chloride (533 mg, 2.35 mmole) was added in one portion. The reaction mixture was stirred at room temperature for 0.25 hr. The mixture was diluted with 5 mL water and extracted with 25 mL ethyl ether. The organic phase was washed with 5 mL water, 5 mL saturated sodium chloride, dried (magnesium sulfate) and concentrated under reduced pressure. The residue was recrystallized from ether/hexane to provide 1-(naphthalene-1-sulfonyl)-4-nitro-1H-indole as light yellow crystals, 779 mg, m.p. 156-157° C.

reactant | 4-nitro-1H-indole | 2.3 mmole, 370 mg | [N+](=O)([O-])C1=C2C=CNC2=CC=C1 | C8H6N2O2
reactant | sodium hydroxide | 4 M, 5 mL | [OH-].[Na+]
reactant | naphthalene-1-sulfonyl chloride | 2.35 mmole, 533 mg | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetra-n-butyl ammonium hydrogen sulfate | 50 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 5 mL | O | H2O
product | 1-(naphthalene-1-sulfonyl)-4-nitro-1H-indole | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)N1C=CC2=C(C=CC=C12)[N+](=O)[O-] | C18H12N2O4S
